US04579854
0.5 g of 8-benzyloxy-5-{1-acetoxy-2-[N-(2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril (α-isomer) hydrochloride.methanol is dissolved in a mixture of 10 ml of methanol and 2 ml of water, and 180 mg of triethylamine are added thereto. The mixture is refluxed for 5 hours under stirring. The mixture is concentrated under reduced pressure to remove solvent. The residue is extracted with chloroform, and the extract is washed with 5% hydrochloric acid. The chloroform solution is dried and concentrated under reduced pressure to remove solvent. The residue is recrystallized from a mixture of isopropanol and ether. 365 mg of 8-benzyloxy-5-{1-hydroxy-2-[N-(2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril (α-isomer) hydrochloride are obtained. Yield: 86.1%

reactant | 8-benzyloxy-5-{1-acetoxy-2-[N-(2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril | 0.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=CC=C(C=C1)OC)C)OC(C)=O | C30H32N2O5
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | 180 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 8-benzyloxy-5-{1-hydroxy-2-[N-(2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril | 365 mg, Yield: 86.1% | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC(CC1=CC=C(C=C1)OC)C)O | C28H30N2O4
